US06387908B1
(1R,2S)-2-amino-3-methyl-1-phenyl-1-pentanol (Starting compound of Example 3)
The 2-(S)-amino-3-methyl-1-phenyl-1-pentanone hydrochloride (24.2 g, 0.106 mmol.) prepared above was dissolved in methanol (250 mL). The solution was stirred under chilling with ice to maintain the solution temperature at a temperature of lower than 10° C., and to this was portionwise added sodium borohydride (3.8 g, 0.10 mmol.). The reaction mixture was stirred for one hour at the same temperature, and concentrated under reduced pressure. To the residue were added chloroform (100 mL), water (50 mL), and 2N aqueous sodium hydroxide solution. The chloroform layer was separated, and the aqueous layer was subjected to extraction using chloroform. The chloroform portions were combined, successively washed with water and aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, to give the titled compound as a white crystalline product (17.8 g, yield: 87%).

reactant | 2-(S)-amino-3-methyl-1-phenyl-1-pentanone hydrochloride | 0.106 mmol, 24.2 g | Cl.N[C@H](C(=O)C1=CC=CC=C1)C(CC)C
reactant | sodium borohydride | 0.10 mmol, 3.8 g | [BH4-].[Na+]
solvent | methanol | 250 mL | CO | CH4O
product | (1R,2S)-2-amino-3-methyl-1-phenyl-1-pentanol | N[C@H]([C@H](O)C1=CC=CC=C1)C(CC)C | C12H19NO
